US06635655B1
(2-Bromomethyl-4-chloro-6-methyl-phenoxy)-acetonitrile
(4-Chloro-2,6-dimethyl-phenoxy)-acetonitrile (700 mg, 3.6 mmol), N-bromosuccinimide (510 mg, 2.9 mmol) and benzoyl peroxide (72 mg, 0.29 mmol) are heated at reflux in carbon tetrachloride (10 mL) for 16 h. The reaction is cooled, filtered and the filtrate is concentrated and purified by column chromatograpy (silica, 5% ethyl acetate in hexanes) to provide the title compound. MS (EI) 273, 275 (M)+, Br pattern.

reactant | (4-Chloro-2,6-dimethyl-phenoxy)-acetonitrile | 3.6 mmol, 700 mg | ClC1=CC(=C(OCC#N)C(=C1)C)C | C10H10ClNO
reactant | N-bromosuccinimide | 2.9 mmol, 510 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.29 mmol, 72 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 10 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | (2-Bromomethyl-4-chloro-6-methyl-phenoxy)-acetonitrile | BrCC1=C(OCC#N)C(=CC(=C1)Cl)C | C10H9BrClNO
